US04144338
A. N-(2-Dimethylaminoethyl)-N-(2-pyrazinyl)cyanamide
A solution of cyanogen bromide (15.9 g., 0.150 mole) in 75 ml of tetrahydrofuran is added to a solution of 2-(2-dimethylaminoethylamino)pyrazine (16.6 g., 0.1 mole) and triethylamine (20.9 g., 0.15 mole) in 100 ml of tetrahydrofuran. After 72 hours, dilute sodium hydroxide is added and the mixture is extracted with ether. The extracts are concentrated and the residue is distilled under reduced pressure. N-(2-Dimethylaminoethyl)-N-(2-pyrazinyl)cyanamide boiling at 130°-132° C. at 0.7 mm is collected.

reactant | cyanogen bromide | 0.150 mole, 15.9 g | N#CBr | CBrN
reactant | 2-(2-dimethylaminoethylamino)pyrazine | 0.1 mole, 16.6 g | CN(CCNC1=NC=CN=C1)C | C8H14N4
reactant | triethylamine | 0.15 mole, 20.9 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(2-Dimethylaminoethyl)-N-(2-pyrazinyl)cyanamide | CN(CCN(C#N)C1=NC=CN=C1)C | C9H13N5
